US06448443B1
3-Iodobenzaldehyde.
Commercially available 3-iodobenzyl alcohol (5.32 mL, 41.9 mmol) was dissolved in 200 mL CH2Cl2. Upon completion, the reaction was diluted with 250 mL Et2O. The product was recovered as off-white crystals (8.1 g, 83.4%) mp: 48.0-55.0° C. TLC: Rf 0.54 (3:1 hexanes/EtOAc). IR (neat): 3058, 2824, 2728, 1698, 1586, 1566. 1H-NMR (400 MHz, CDCl3): δ 9.93 (s, 1H, C1-H), 8.22 (t, 1H, J=1.6, C3-H), 7.96 (dt, 1H, J=7.7, 1.4, C5-H), 7.85 (dt, 1H, J=7.7, 1.3, C7-H), 7.29 (t, 1H, J=7.7, C6-H). 13C-NMR (125 MHz, CDCl3): δ 190.6, 143.1, 138.4, 138.0, 130.7, 128.8, 94.6. EI-MS m/z (rel int): 232 (M+, 100), 231 ([M−H]+, 25), 203 ([M−CHO]+, 14), 104 ([M−HI]+, 38).

reactant | 3-iodobenzyl alcohol | 41.9 mmol, 5.32 mL | IC=1C=C(CO)C=CC1 | C7H7IO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 250 mL | CCOCC | C4H10O
product | 3-Iodobenzaldehyde | IC=1C=C(C=O)C=CC1 | C7H5IO
